US09169198B2
The above-described method (Example 2) was repeated to react ethyl 2-amino-5-bromo-3-methylbenzoate (2.00 g, 7.65 mmol) with copper cyanide (0.70 g, 7.80 mmol) in N,N-dimethylacetamide at 160° C. for 8 hours. Following working up similar to Example 2, ethyl 2-amino-5-cyano-3-methylbenzoate (1.30 g, 80.2% of theory, 96.3 area % LC) was obtained as a brown solid.

reactant | ethyl 2-amino-5-bromo-3-methylbenzoate | 7.65 mmol, 2.00 g | NC1=C(C(=O)OCC)C=C(C=C1C)Br | C10H12BrNO2
reactant | copper cyanide | 7.80 mmol, 0.70 g | [Cu](C#N)C#N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | ethyl 2-amino-5-cyano-3-methylbenzoate | 1.30 g, 80.2% | NC1=C(C(=O)OCC)C=C(C=C1C)C#N | C11H12N2O2
